US06552068B1
5,5,6,6,6-Pentafluorohexanoic acid (95 g, 460.92 mmol) was dissolved in anhydrous tetrahydrofuran (1L) and cooled to −30° C. To this solution, borane-methyl sulfide complex (10 M in THF, 92.2 ml, 921.84 mmol) was slowly added dropwise, followed by stirring for 3 hours at room temperature. After treatment with methanol at 0° C., water was added to the reaction mixture, which was then extracted twice with ether. The combined organic layers were washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the resulting residue was dissolved in dichloromethane (1500 ml), and triethylamine (160.6 ml, 1.15 mol) and methanesulfonyl chloride (46.4 ml, 599.19 mmol) were added dropwise thereto at 0° C., followed by stirring for 1 hour. After the reaction was completed, water was added to the reaction mixture, which was then extracted twice with dichloromethane. The combined organic layers were washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/4) to give 1-methanesulfonyloxy-5,5,6,6,6-pentafluorohexane (101 g, Yield 81%).

reactant | 5,5,6,6,6-Pentafluorohexanoic acid | 460.92 mmol, 95 g | FC(CCCC(=O)O)(C(F)(F)F)F | C6H7F5O2
reactant | borane methyl sulfide | 921.84 mmol, 10 M, 92.2 ml | B.CSC
reactant | triethylamine | 1.15 mol, 160.6 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 599.19 mmol, 46.4 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 1-methanesulfonyloxy-5,5,6,6,6-pentafluorohexane | 101 g, Yield 81% | CS(=O)(=O)OCCCCC(C(F)(F)F)(F)F | C7H11F5O3S
